US05417959
A solution of t-butyl-tris[(2-hydroxyethyl)thiomethyl]acetate (11.2 g, 0.029 mol) in 50 mL of pyridine is cooled to 0° C. and p-toluenesulfonyl chloride (18.3 g, 0.096 mol) is added in portions over 1 hr. The mixture is kept at 0° C. for 15 hrs. Then dichloromethane (200 mL) is added and the solution is washed four times with 100 mL of 10% hydrochloric acid, once with 100 mL of saturated sodium bicarbonate and once with 100 mL of water. The organic layer is dried over anhydrous sodium sulfate and evaporated to give t-butyl-tris[(2-tosylethyl)-thiomethyl]acetate.

reactant | t-butyl-tris[(2-hydroxyethyl)thiomethyl]acetate | 0.029 mol, 11.2 g | C(C)(C)(C)OC(C(CSCCO)(CSCCO)CSCCO)=O | C15H30O5S3
reactant | p-toluenesulfonyl chloride | 0.096 mol, 18.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | t-butyl-tris[(2-tosylethyl)-thiomethyl]acetate | C(C)(C)(C)OC(C(CSCCS(=O)(=O)C1=CC=C(C)C=C1)(CSCCS(=O)(=O)C1=CC=C(C)C=C1)CSCCS(=O)(=O)C1=CC=C(C)C=C1)=O | C36H48O8S6
